US05942544
Part E. A solution of ethyl N-[4-[4-aminophenyl]butyl]-N-[3-cyanophenyl]glycine (0.12 gm, 0.34 mmol) and 3,5-dimethylpyrazole-1-carboxamidine nitrate (0.103 gm, 0.51 mmol) in 10 mL pyridine was heated to 100° C. under a nitrogen atmosphere for 3 hrs. The reaction mixture was allowed to cool and was partitioned between ethyl acetate and water. The combined organic layer was washed with water, brine, dried over magnesium sulfate and concentrated to give the crude product. The product was purified by flash chromatography on silica gel eluting chloroform:methanol (v:v, 80:20) to give ethyl N-[4-[4-[(aminoiminomethyl)amino]phenyl]butyl]-N-[3-cyanophenyl]glycine 0.078 gm (58%) MS 394(M+H)+ 1 H NMR (CDCl3): 7.0(m, 10H), 6.8(m, 2H), 4.2(q, 2H), 4.0(s, 2H), 3.4(m, 2H), 2.7(m, 2H), 1.2(t, 3H).

reactant | ethyl N-[4-[4-aminophenyl]butyl]-N-[3-cyanophenyl]glycine | 0.34 mmol, 0.12 gm | C(C)C(N(C1=CC(=CC=C1)C#N)CCCCC1=CC=C(C=C1)N)C(=O)O | C21H25N3O2
reactant | 3,5-dimethylpyrazole-1-carboxamidine nitrate | 0.51 mmol, 0.103 gm | [N+](=O)(O)[O-].CC1=NN(C(=C1)C)C(=N)N
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | ethyl N-[4-[4-[(aminoiminomethyl)amino]phenyl]butyl]-N-[3-cyanophenyl]glycine | 0.078 gm, 58% | C(C)C(N(C1=CC(=CC=C1)C#N)CCCCC1=CC=C(C=C1)NC=NN)C(=O)O | C22H27N5O2
